US06194428B1
Methyl 1,4,5,7-tetrahydro-4-(4-chlorophenyl)-2-methyl-5-oxo-furo[3,4-b]-pyridine-3-carboxylate
3 g (21.3 mmol) of 4-chlorobenzaldehyde, 4.0 g (21.3 mmol) of ethyl 4-acetoxyacetoacetate and 2.5 g (21.3 mmol) of methyl 3-aminocrotonate are dissolved in 40 ml of isopropanol and heated to reflux for 12 h. The mixture is then treated with 10 ml of dilute aqueous HCl and heated to reflux for a further 30 min. The mixture is partitioned between toluene and water. Drying (MgSO4) and concentration of the organic phase yields a white solid which is purified by filtration through 50 g of silica gel (ethyl acetate/petroleum ether 1+1) and subsequent recrystallization from ethyl acetate/petroleum ether. 2.6 g (8.13 mmol, 38%) are obtained.

reactant | 4-chlorobenzaldehyde | 21.3 mmol, 3 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | ethyl 4-acetoxyacetoacetate | 21.3 mmol, 4.0 g | C(C)(=O)OCC(CC(=O)OCC)=O | C8H12O5
reactant | methyl 3-aminocrotonate | 21.3 mmol, 2.5 g | N\C(=C/C(=O)OC)\C | C5H9NO2
reactant | HCl | 10 ml | Cl | ClH
solvent | isopropanol | 40 ml | C(C)(C)O | C3H8O
product | Methyl 1,4,5,7-tetrahydro-4-(4-chlorophenyl)-2-methyl-5-oxo-furo[3,4-b]-pyridine-3-carboxylate | ClC1=CC=C(C=C1)C1C2=C(NC(=C1C(=O)OC)C)COC2=O | C16H14ClNO4
